US03992449
Synthesis of γ-Aminopropylhydroquinone.hydrobromide
100 g of γ-aminopropyl-2,5-dimethoxybenzene was heated at an oil bathtemperature of 180° C in 830 ml of 48% hydrobromic acid while blowing therein nitrogen gas. After the reaction, the reaction mixture wascooled, and the precipitated crystals were filtered out and dried to obtain88 g of the end product having a melting point of 130° ~ 131° C (yield 69.3%).

reactant | γ-aminopropyl-2,5-dimethoxybenzene | 100 g | NCCCC1=C(C=CC(=C1)OC)OC | C11H17NO2
reactant | hydrobromic acid | 830 ml | Br | BrH
product | γ-Aminopropylhydroquinone.hydrobromide | yield 69.3% | Br.NCCCC1=C(O)C=CC(=C1)O | InChI=1S/C9H13NO2.BrH/c10-5-1-2-7-6-8(11)3-4-9(7)12;/h3-4,6,11-12H,1-2,5,10H2;1H
